US04699926
By conducting the reaction as described in Example 2, Step B, except that an equimolar amount of 4-(2,3-dichloro-4-valerylphenoxy)butyric acid was substituted for the 4-(2,3-dichloro-4-butyrylphenoxy)-butyric acid, there was obtained 4-[2,3-dichloro-4-(2-methylenevaleryl)phenoxy]butyric acid, m.p. 85°-87° C.

reactant | 4-(2,3-dichloro-4-valerylphenoxy)butyric acid | ClC1=C(OCCCC(=O)O)C=CC(=C1Cl)C(CCCC)=O | C15H18Cl2O4
reactant | 4-(2,3-dichloro-4-butyrylphenoxy)-butyric acid | ClC1=C(OCCCC(=O)O)C=CC(=C1Cl)C(CCC)=O | C14H16Cl2O4
product | 4-[2,3-dichloro-4-(2-methylenevaleryl)phenoxy]butyric acid | ClC1=C(OCCCC(=O)O)C=CC(=C1Cl)C(C(CCC)=C)=O | C16H18Cl2O4
